US08871756B2
N˜3˜-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-beta-alaninamide
A mixture of methyl N-[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-beta-alaninate and a solution of ammonia in methanol (7 N, 10 mL) was heated with stirring at 85° C. in a sealed tube overnight. The resulting mixture was concentrated in vacuo. The residue was purified by preparative HPLC to afford 59.2 mg of the desired product as a solid. MS obsd. (ESI+) [(M+H)+] 425, 1H NMR (400 MHz, DMSO-d6) δ ppm 7.95 (d, J=6.82 Hz, 1 H), 7.88 (dd, J=7.83, 1.26 Hz, 1 H), 7.66-7.60 (m, 2 H), 7.50-7.42 (m, 2 H), 7.31 (d, J=8.59 Hz, 1 H), 7.22 (dd, J=8.46, 1.64 Hz, 1 H), 6.97 (brs, 1 H), 6.73 (t, J=5.68 Hz, 1 H), 6.06 (s, 1 H), 5.06 (brs, 2 H), 4.40 (brs, 2 H), 3.68-3.56 (m, 2 H), 3.51 (q, J=6.65 Hz, 2 H), 2.42 (t, J=7.07 Hz, 2 H), 2.34 (s, 3 H).

reactant | methyl N-[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-beta-alaninate | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NCCC(=O)OC)C)=O | C23H25N3O4S
reactant | ammonia | N | H3N
solvent | methanol | 7 N, 10 mL | CO | CH4O
product | N˜3˜-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-beta-alaninamide | 59.2 mg | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NCCC(=O)N)C)=O | C22H24N4O3S
